US06809199B2
Step A: 4,6-Dibromo-3-(bromomethyl)-2-(2-chlorophenyl)pyridine
To a suspension of 6.3 g of 4,6-dibromo-2-(2-chlorophenyl)-3-methylpyridine (COMPOUND W-1) in 75 mL of CCl4 was added 3.7 g of N-bromosuccinimide and 420 mg of benzoyl peroxide. The mixture was heated to reflux and stirred at this temperature for 6 h, then cooled and concentrated. The residue was dissolved in 150 mL of 1:1 hexanes-Et2O and filtered through a pad of silica gel, then purified in two batches by flash chromatography on Biotage 40M columns, eluting with a gradient system of 99:1 to 97:3 hexanes-Et2O, to yield the title compound as a white solid.

reactant | 4,6-dibromo-2-(2-chlorophenyl)-3-methylpyridine | 6.3 g | BrC1=C(C(=NC(=C1)Br)C1=C(C=CC=C1)Cl)C | C12H8Br2ClN
reactant | N-bromosuccinimide | 3.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 420 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 75 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4,6-Dibromo-3-(bromomethyl)-2-(2-chlorophenyl)pyridine | BrC1=C(C(=NC(=C1)Br)C1=C(C=CC=C1)Cl)CBr | C12H7Br3ClN
